US08557936B2
(2-(Benzyloxy)biphenyl-3-yl)(phenyl)methanol (6):
A solution of 2-(benzyloxy)biphenyl-3-carbaldehyde (14.4 g, 50 mmol) in anhydrous tetrahydrofuran (180 mL) was stirred under nitrogen on an ice bath and 1M phenyl magnesium bromide in tetrahydrofuran (60 mL, 60 mmol) was added over 20 min. The reaction mixture was stirred at room temperature for 3 hr, after which it was poured on saturated ammonium chloride (600 mL) and extracted with ethyl acetate (800 mL). The organic extract was washed with water (2×400 mL), dried over sodium sulfate and stripped. The crude product (19.2 g) was used as such in the next step.

reactant | 2-(benzyloxy)biphenyl-3-carbaldehyde | 50 mmol, 14.4 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1C=O)C1=CC=CC=C1 | C20H16O2
reactant | phenyl magnesium bromide | 1M | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | 600 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mmol, 60 mL | O1CCCC1 | C4H8O
product | (2-(Benzyloxy)biphenyl-3-yl)(phenyl)methanol | C(C1=CC=CC=C1)OC1=C(C=CC=C1C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C26H22O2
